OpAmp Test with Bipolar Table Model
* please run the table generator table-generator-q-2d.sp in ngspice to
* create the table data file qinn-clc409-2d-1.table required by clc409mod.sub

vddp vp 0 3
vddn vn 0 -3

Xopmap 0 ino outo vp vn CLC409
Rin in ino 1k
Rfb ino outo 3k


vin in 0 dc 0 PULSE(-1 1 20NS 20NS 20NS 500NS 1000NS)

* circuit with standard bip model
*.include clc409.sub

* circuit with qinn bipolar table model
.include clc409mod.sub

.options savecurrents

.control
dc vin -1 1 0.1
plot v(outo)
reset
tran 10n 1000n
plot v(outo)
.endc


.end

